US04002623
To a stirred solution of N-[3-(4-methyl-1-piperazinyl)propyl]-o-phenylenediamine (334.8 g., 1.35 mole) in water (1400 ml.), under nitrogen, was added cyanogen bromide (200 g., 1.89 mole) at a rate sufficient to maintain the reaction temperature at 60°-65° C. The addition took place over a 2 hour period. The reaction mixture was then cooled and the pH adjusted to 10 by the dropwise addition of 50% KOH. The basic aqueous layer was extracted with chloroform (5 × 500 ml.). The organic layers were combined, dried (MgSO4), and evaporated in vacuo to give a dark brown semi-solid. Slurrying with acetone (300 ml.) gave on filtration and washing with acetone 120.1 g., (32.5% yield) of 1-[3-(4-methyl-1-piperazinyl)propyl]-2-aminobenzimidazole as a pale yellow solid, m.p. 195°-197° C.

reactant | N-[3-(4-methyl-1-piperazinyl)propyl]-o-phenylenediamine | 1.35 mole, 334.8 g | CN1CCN(CC1)CCCNC1=C(C=CC=C1)N | C14H24N4
reactant | cyanogen bromide | 1.89 mole, 200 g | N#CBr | CBrN
reactant | KOH | [OH-].[K+]
reactant | acetone | 300 ml | CC(=O)C | C3H6O
solvent | water | 1400 ml | O | H2O
product | 1-[3-(4-methyl-1-piperazinyl)propyl]-2-aminobenzimidazole | 32.5% yield | CN1CCN(CC1)CCCN1C(=NC2=C1C=CC=C2)N | C15H23N5
